US04173640
C. 2-(1,2,3,4,5,8-Hexahydro-3-hydroxynaphthalenyl)-1-methylpiperidine
Following the procedure of Example 6, part D, but substituting the 2-(3-hydroxy-1,2,3,4-tetrahydronaphthalenyl)-1-methylpiperidine for the 3-(3,4-dihydroxy-1,2,3,4-tetrahydro-2-naphthalenyl)-1-methyl pyrrolidine, the title C compound is obtained.

reactant | 2-(3-hydroxy-1,2,3,4-tetrahydronaphthalenyl)-1-methylpiperidine | OC1CC(C2=CC=CC=C2C1)C1N(CCCC1)C | C16H23NO
reactant | 3-(3,4-dihydroxy-1,2,3,4-tetrahydro-2-naphthalenyl)-1-methyl pyrrolidine | OC1C(CC2=CC=CC=C2C1O)C1CN(CC1)C | C15H21NO2
product | 2-(1,2,3,4,5,8-Hexahydro-3-hydroxynaphthalenyl)-1-methylpiperidine | OC1CC(C=2CC=CCC2C1)C1N(CCCC1)C | C16H25NO
